US09278968B2
Under an argon gas flow, to a mixture of 10.4 g of 5-amino-2,2-dimethyl-1,3-dioxane-5-carbonitrile, 27.8 ml of triethylamine, and 280 ml of dichloroethane were added 27.2 g of 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carbonyl chloride hydrochloride and 12 ml of dichloroethane at room temperature, followed by stirring at 70° C. for 2 hours. After leaving to be cooled to room temperature, the insoluble materials were separated by filtration and washed with dichloroethane. The filtrate was washed with a 10% aqueous citric acid solution three times, and the aqueous layer was extracted with chloroform. The organic layer was combined, washed with water, a saturated aqueous sodium hydrogen carbonate solution, and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The obtained residue was azeotropic distilled with ethyl acetate twice. To the obtained residue was added THF, and the insoluble materials were separated by filtration and washed with THF. The filtrate was concentrated and the residue was purified by silica gel column chromatography to obtain 27.7 g of N-(5-cyano-2,2-dimethyl-1,3-dioxan-5-yl)-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | 5-amino-2,2-dimethyl-1,3-dioxane-5-carbonitrile | 10.4 g | NC1(COC(OC1)(C)C)C#N | C7H12N2O2
reactant | dichloroethane | 280 ml | ClC(C)Cl | C2H4Cl2
reactant | 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carbonyl chloride hydrochloride | 27.2 g | Cl.FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)Cl)C(=CC=C1)F
reactant | dichloroethane | 12 ml | ClC(C)Cl | C2H4Cl2
solvent | triethylamine | 27.8 ml | C(C)N(CC)CC | C6H15N
product | N-(5-cyano-2,2-dimethyl-1,3-dioxan-5-yl)-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 27.7 g | C(#N)C1(COC(OC1)(C)C)NC(=O)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2F)F)C | C23H22F2N4O4
